US06645971B1
Preparation of 1-Propyl-3-[1-(3-hydroxymethylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 100 mg (0.234 mmol) of 3-[1-(3-hydroxymethylbenzyl) piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in 2 ml of DMF, 11.2 mg (0.28 mmol) of sodium hydride (60%) were added under ice-cooling and stirred at the same temperature for 5 minutes and at room temperature for 5 minutes. After ice-cooling again, 0.032 ml (0.35 mmol) of 1-bromopropane was added thereto and stirred under ice-cooling for 3 hours and at room temperature for 6 hours. To the reaction mixture, 2 mg of tetrabutylammonium iodide were added and further stirred at room temperature for 5 hours. It was poured into water, extracted with ethyl acetate, washed with water, aqueous saturated sodium bicarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the obtained residue was purified by silica gel column chromatography (chloroform—2% methanol/chloroform) to give 47 mg (0.10 mmol) of the title compound as colorless oil.

reactant | 3-[1-(3-hydroxymethylbenzyl) piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.234 mmol, 100 mg | OCC=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C27H29N3O2
reactant | sodium hydride | 0.28 mmol, 11.2 mg | [H-].[Na+]
reactant | 1-bromopropane | 0.35 mmol, 0.032 ml | BrCCC | C3H7Br
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 2 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-Propyl-3-[1-(3-hydroxymethylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.10 mmol, 47 mg | C(CC)N1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1=CC(=CC=C1)CO)=O | C30H35N3O2
